* List of components:
* IREF: Current source
* I1: Current source
* M0: PMOS transistor
* M1, M4: NMOS transistors
* M2, M3: PMOS transistors

* Netlist
IREF 1 2 DC 1mA
I1 3 0 DC 1mA

M0 2 2 1 1 PMOS
M1 3 2 3 3 NMOS
M4 4 2 3 3 NMOS
M3 5 6 4 4 PMOS
M2 6 5 3 3 PMOS

VDD 4 0 DC 5V

* End of netlist